US06794403B2
Step a) 5-Methoxy-7-(hydroxymethyl)-2-(4-methoxyphenyl)-1,3-benzoxazole
Sodium borohydride (66.8 mg, 1.76 mmol) was added into a solution of 5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole-7-carbaldehyde (250 mg, 0.88 mmol) in anhydrous MeOH (8 mL) at 0° C. The reaction mixture was stirred for 30 min and then evaporated in vacuum. The residue was dissolved in diethyl ether and washed with water and brine, dried over MgSO4 and filtered. Evaporation and flash chromatography (50% EtOAc/petroleum ether) gave (210 mg, 83%) of the product, which was used directly in the next reaction.

reactant | Sodium borohydride | 1.76 mmol, 66.8 mg | [BH4-].[Na+]
reactant | 5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole-7-carbaldehyde | 0.88 mmol, 250 mg | COC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)OC)C1)C=O | C16H13NO4
solvent | MeOH | 8 mL | CO | CH4O
product | 5-Methoxy-7-(hydroxymethyl)-2-(4-methoxyphenyl)-1,3-benzoxazole | 210 mg, 83% | COC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)OC)C1)CO | C16H15NO4
